US05716944
To a mixture of 4-(4-cyclohexylphenyl)butyric acid (10.2 g), thionyl chloride (7.4 g) and toluene (50 ml), pyridine (1 drop) was added. After refluxing for 1.5 hours, the solvent was evaporated off under reduced pressure. The residue was dissolved in dichloromethane (20 ml); this solution was added dropwise to a suspension of powdered anhydrous aluminum chloride (8.3 g) in dichloromethane (100 ml) under ice cooling conditions. After stirring at room temperature for 3 hours, the reaction mixture was poured into 1.2N HCl (150 ml), followed by stirring for 30 minutes. The organic layer was collected, while the aqueous layer was extracted with dichloromethane. The extract was combined with the organic layer, succesively washed with water and brine, and dried (MgSO4), after which the solvent was evaporated off. The residual oil was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:10, v/v) to yield 7-cyclohexyl-1-tetralone (9.4 g, 100%) as an oil.

reactant | 4-(4-cyclohexylphenyl)butyric acid | 10.2 g | C1(CCCCC1)C1=CC=C(C=C1)CCCC(=O)O | C16H22O2
reactant | thionyl chloride | 7.4 g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-cyclohexyl-1-tetralone | 9.4 g, 100% | C1(CCCCC1)C1=CC=C2CCCC(C2=C1)=O | C16H20O
